Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Motrin / lisinopril / nabumetone
 
Attending: ___
 
Chief Complaint:
sudden onset R sided weakness and dysarthria in the setting of 
Percocet use. 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ with hx of DM, HTN, HLD, peripheral 
neuropathy, prior stroke in ___ here with sudden onset R sided 
weakness and dysarthria in the setting of Percocet use. 

Of note, with his prior stroke in ___, he had R arm and leg 
weakness and numbness - his symptoms improved significantly with 
rehab but the altered sensation on his R sided never completely 
resolved. He suspects he had some residual R sided weakness as 
well but he has been able to walk well and use his right arm 
well despite this. 

Pt was in normal state of health when he got off work today. 
Because he had ran out of gabapentin and his neuropathy related 
pain in his feet was not adequately controlled, he went to buy 
some Percocet off the street. Around 30 minutes after taking one 
Percocet at around 3pm, he had sudden-onset right arm and leg 
weakness and possible worsening of the numbness on the right 
side. He recently stopped taking his Plavix for 1 month and just 
restarted it several days ago. He also does not take his 
simvastatin. 

These symptoms persisted but he was able to get home and when he 
talked to his sister, he realized his speech was slurred. Denies 
any difficulty with getting his words out, paraphasic errors, or 
neologisms. He was able to understand all speech. At this point, 
he asked his sister to drive him to the ED. 

At ___, tele stroke was consulted and he was deemed to be 
outside the TPA window at around 11PM-12AM. He had NCHCT showing 
small vessel disease and prior strokes. H and N CTA that 
reportedly showed ?M4 cutoff which was too distal for 
intervention.

He was transferred for further care.  

On neurologic review of systems, +numbness/tingling in b/l feet. 
Otherwise, the patient denies headache, lightheadedness, or 
confusion. Denies loss of vision, blurred vision, diplopia, 
vertigo, tinnitus, hearing difficulty, or dysphagia. Denies loss 
of sensation. Denies bowel or bladder incontinence or retention. 


On general review of systems, the pt denies recent fever or 
chills. Denies cough, shortness of breath.  Denies chest pain or 
tightness, palpitations.  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No dysuria. 

 
Past Medical History:
DM
HTN
HLD
Peripheral neuropathy 
Stroke in ___ with R sided weakness and numbness

 
Social History:
___
Family History:
No stroke, significant neurologic history.  

 
Physical Exam:
Admission Exam:
Vitals: ___, HR 71, 143/95 RR 18 98% on RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, no lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history but 
unable to provide some details. Mildly inattentive, able to name 
___ backward but skips ___. Language is slow but fluent with 
intact repetition and comprehension. Normal prosody. There were 
no paraphasic errors. Pt was able to name both high and low 
frequency objects.  Able to read without difficulty. Speech was 
not clearly dysarthric but patient says it is slightly off 
baseline. Able to follow both midline and appendicular commands. 
Pt was able to register 3 objects and recall ___ at 5 minutes, 
does not correct with category cue or multiple choice. There was 
no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2.5 to 2mm. EOMI without nystagmus. VFF 
to confrontation. 
V: Facial sensation intact to light touch. Decreased on right 
side of the face to pinprick compared to the left in V2. 
VII: R NLFF and decreased activation compared to left.  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. R arm pronation and drift. 

No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  5    ___   ___   5    5  5     5     5-   
R  4+   5   5-* ___   4+  5    4+ 5     5     4+   
*pain limited

-Sensory: Decreased light touch and pinprick on right compared 
to left in leg and proximal+distal arm. Increased sensitivity to 
pinprick in feet compared to proximal leg. Intact joint 
proprioception in b/l big toes to larger movements. No 
extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  3  3    3    3   0
Plantar response was extensor on the R and was withdrawal vs 
extensor on the L. R pectoral jerk. No hoffmans. No ankle 
clonus. 

-Coordination: No dysmetria on FNF bilaterally.

-Gait: Not tested
Discharge Exam:
Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history. 
Able to name ___ backward. Language is slow but fluent with 
intact repetition and comprehension. Normal prosody. There were 
no paraphasic errors. Pt was able to name both high and low 
frequency objects.  Able to read without difficulty. Speech not 
dysarthric. Able to follow both midline and appendicular 
commands. Pt was able to register 3 objects and recall ___ at 5 
minutes, does not correct with category cue or multiple choice. 
There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2.5 to 2mm. EOMI without nystagmus. VFF 
to confrontation. 
V: Facial sensation intact to light touch. Decreased on right 
side of the face to pinprick compared to the left in V2. 
VII: R NLFF and decreased activation compared to left.  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. R arm pronation and drift. 

No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  5    ___   ___   5    5  5     5     5-   
R  4+   5   5-* ___   4+  5    4+ 5     5     4+   
*pain limited

-Sensory: Decreased light touch and pinprick on right compared 
to left in leg and arm. Increased sensitivity to pinprick in 
feet compared to proximal leg. Intact joint proprioception in 
b/l big toes to larger movements. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  3  3    3    3   0
Plantar response was extensor on the R and was withdrawal vs 
extensor on the L. R pectoral jerk. No hoffmans. No ankle 
clonus. 

-Coordination: No dysmetria on FNF bilaterally.

-Gait: narrow based, slow. 
 
Pertinent Results:
___ 04:37AM   %HbA1c-8.8* eAG-206*

___ 04:37AM   WBC-7.2 RBC-4.70 HGB-13.6* HCT-42.6 MCV-91 
MCH-28.9 MCHC-31.9* RDW-11.4 RDWSD-38.2

___ 04:37AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

Imaging:
CT head non con

MRI non ___
IMPRESSION:
1. Chronic left basal ganglia and left cerebellar infarcts.
2. No acute intracranial abnormality including acute infarct, 
hemorrhage or
suggestion of mass.
3. Moderate global atrophy with white matter signal abnormality 
in a
distribution suggestive of chronic small vessel ischemic 
disease.

OSH imaging:
IMAGING:
Non-Contrast CT of Head: Small vessel disease, subacute stroke L 
MCA territory - frontotemporal area, Old L cerebellar stroke - 
encephalomalacia

CTA H and N - L common carotid atherosclerosis and stenosis. No 
soft clot.  
 
Brief Hospital Course:
___ with hx of DM, HTN, HLD, prior stroke with residual R sided 
weakness and numbness, presented as OSH transfer with increased 
R sided weakness, numbness, slurred speech after taking Percocet 
purchased off the street. He was transferred to ___ for 
further management. CT head performed at OSH significant for 
small vessel disease, old L frontotemporal stroke, old L 
cerebellar stroke. CTA Head and Neck also performed at OSH 
showed L common carotid atherosclerosis and stenosis. MRI 
performed at ___ showed no acute stroke.
His symptoms were thought to be due to recrudesecence in the 
setting of Percocet use. In addition he was noted to have an 
elevated SCr 1.4(unknown baseline SCr. It is unclear if this 
represents chronic versus acute kidney injury. Patient was 
encouraged to increase PO fluid intake. 
He was evaluated by physical therapy who recommended acute 
rehab. However, patient declined acute rehab, insisted on being 
discharged home. Patient was discharged home with script for 
outpatient physical therapy. Given atherosclerosis seen on 
vessel imaging his simvastatin 20mg daily was changed to 
atorvastatin 80 mg daily. The rest of his medication remained 
the same. 
He has a follow up appointment scheduled with neurology- stroke 
clinic. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Gabapentin 600 mg PO BID 
4. GlipiZIDE 5 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Losartan Potassium 25 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Simvastatin 20 mg PO QPM 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D ___ UNIT PO 1X/WEEK (WE) 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp 
#*120 Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
4.  Gabapentin 600 mg PO BID 
RX *gabapentin 600 mg 1 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*0 
5.  GlipiZIDE 5 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Losartan Potassium 25 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Thiamine 100 mg PO DAILY  
10.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Recrudesecence in the setting of Percocet use.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of right sided numbness, 
weakness and slurred speech resulting from recrudesecence of 
your prior stroke. Recrudesecence of a prior stroke means that 
you have re-developed symptoms that you experienced during a 
prior stroke. This can happen due to a variety of reasons such 
as dehydration, infection, metabolic abnormality. In your case 
we believe it is due to you taking the Percocet that you bought 
off the street.  
Even though we do not think that you had a stroke, we assessed 
you for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
Hyperlipidemia and diabtes

We are changing your medications as follows:  
Atorvastatin 80 mg daily
  
Please take your other medications as prescribed. Please 
continue taking your Plavix and diabetes medication. We 
encourage you to exercise, eat a balanced diet, reduce your 
alcohol intake and stop smoking.   
Please follow up with Neurology and your primary care physician 
as listed below.  Of note you were noticed to have an elevated 
serum creatinine which indicates some injury to your kidney 
which could be due to dehydration. This might be chronic injury 
and not acute. We encourage you to drink water and stay 
hydrated. You were evaluated by Physical therapy who recommended 
rehab, but you declined. We wills end you home with outpatient 
physical therapy. Please call ___ to make an 
appointment with physical therapy.

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

 
Followup Instructions:
___